US04952601
In a stainless steel autoclave, 200 ml of tetrahydrofuran and 50 g of 2,4,6-trifluorobenzotrifluoride are introduced, and 30 ml of liquid ammonia are pressed on. The mixture is then heated at 120° C. for 6 hours, with stirring. The reaction mixture is cooled, the pressure is released, and the mixture is subjected to fractional distillation. At a boiling point of 57° to 58° C. at 12 mbar, 15 g of 2-amino-4,6-difluoro-benzotrifluoride are obtained. After a small intermediate cut, 32 g of 2,6-difluoro-4-amino-benzotrifluoride distil over at a boiling point of 103° to 105° C. at 16 mbar. Melting point of the resultant 2,6-difluoro-4-amino-benzotrifluoride: 66° C.

reactant | 2,4,6-trifluorobenzotrifluoride | 50 g | FC1=C(C(=CC(=C1)F)F)C(F)(F)F | C7H2F6
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-amino-4,6-difluoro-benzotrifluoride | 15 g | NC1=C(C(=CC(=C1)F)F)C(F)(F)F | C7H4F5N
